US07417247B2
4,4′-Dimethylbenzil was prepared on the basis of a known method for benzil (L. F. Tietze, Th. Eicher, Reaktionen und Synthesen[Reactions and Syntheses], R. Stierlein, Chem. Ber. 22/1 (1889) 37). 420 g of CuSO4·5H2O (1.68 mol) were dissolved in a mixture of 350 ml of water and 400 ml of pyridine bases while heating. 190 g (0.79 mol) of crude 4,4′-dimethylbenzoin were added to the still warm solution, and refluxing was effected for 4 hours. After cooling to room temperature, the crude product was filtered off and washed with water. The filter residue was taken up in ether, filtered and dried with Na2SO4. After the solution had been evaporated down to about 500 ml, 4,4′-dimethylbenzil crystallized out in the form of pale yellow crystals. Depending on their use, they were recrystallized from ethanol (yield 119.9 g (64%, based on crude 4,4′-dimethylbenzoin used); m.p.: 104° C., literature: 104-105° C. The IR spectrum of 4,4′-dimethylbenzil is shown in FIG. 9.

reactant | benzil | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | 4,4′-dimethylbenzoin | 0.79 mol, 190 g | CC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)C | C16H16O2
solvent | water | 350 ml | O | H2O
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 4,4′-Dimethylbenzil | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
